* OPA690
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA690
* Date: 15JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS223F –DECEMBER 2001–REVISED FEBRUARY 2010
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* THIS MODEL IS APPLICABLE TO OPA690, OPA2690, OPA3690
* NOTES:
* This macromodel predicts well: DC, small-signal AC,
* noise, and transient performance under a wide range
* of conditions
*
* This macromodel does not predict well: distortion
* harmonic, intermod, diff. gain & phase, ...),
* temperature effects, board parasitics, differences
* between package styles, and process changes
* CONNECTIONS:
*              Non-Inverting Input
*              | Inverting Input
*              | | Positive Supply
*              | | |  Negative Supply
*              | | |  |  Out
*              | | |  |  |   DisA
*              | | |  |  |   | 
*              | | |  |  |   |  
*              | | |  |  |   |  
.SUBCKT OPA690 + - V+ V- Out DisA 
C_Cz         0 Zo  3.078875p  
X_F9    33 34 V+ Zo OPA690_F9 
C_C7         V+ 0  1P  
R_R16a         16 26  224  
E_E2         39 0 POLY(1) V- V+ 1.0 .5 0 0
E_E3         40 41 POLY(2) 0 2ndpole  V+ V- -730M 1 0.5
E_E4         42 43 POLY(2) 2ndpole 0  V+ V- -730M 1 0.5
E_E1         38 0 POLY(1) V+ V- -1.0 .5 0 0
C_C6         V- Out  1P  
X_F10    35 36 Zo V- OPA690_F10 
C_C8         0 DisA  1P  
R_R1         DisA 10  5.625K  
G_G11         + 0 POLY(2) 48 0 49 0 0 .1M .1M
I_I24         49 48 DC 100ua  
R_R2         12 V+  1K  
G_G10         - 0 POLY(2) 46 0 47 0 300N 1M 1M
I_I22         47 46 DC 100uA  
Q_Q1         13 13 12 PNP8 .25
Q_Q3         16 - 17 NPN8 1.090
Q_Q5         22 17 16 PNP8 1.00
Q_Q4         21 15 16 NPN8 1
Q_Q6         34 29 26 NPN8 1
Q_Q7         35 30 26 PNP8 1
Q_Q8         26 + 29 PNP8 1
Q_Q9         26 + 30 NPN8 1
R_R3         14 V+  600  
R_R4         V- 18  600  
R_R5         19 V+  420  
R_R6         V- 24  420  
R_R7         25 V+  420  
R_R8         V- 27  420  
R_R9         28 V+  600  
R_R10         V- 31  600  
R_R11         32 V+  420  
R_R12         V- 37  420  
R_Rz         0 Zo  600K  
G_G2         0 2ndpole Zo 0 .001
C_Cp2         0 2ndpole  700F  
R_Rp2         2ndpole 0  1k  
R_R13         40 V+  15  
R_R14         V- 43  15  
X_F3    20 21 25 26 OPA690_F3 
X_F4    22 23 26 27 OPA690_F4 
X_F6    b c 30 31 OPA690_F6 
V_V3         19 20 DC 864m  
V_V4         23 24 DC 847m  
V_V5         32 33 DC 864m  
V_V6         36 37 DC 849m  
X_F5    a b 28 29 OPA690_F5 
D_D1         L 10 DX 1
D_D2         10 H DX 1
D_D3         2ndpole 38 DX 1
D_D4         39 2ndpole DX 1
D_D5         41 Out DX 1
D_D6         Out 42 DX 1
D_D9         46 0 DN1 
D_D10         0 47 DN1 
D_D11         48 0 DN3 .25
D_D12         0 49 DN3 .25
X_F1    13 a 14 15 OPA690_F1 
V_V1         H 0 2.622
V_V2         L 0 2.4745
X_F2    c 11 17 18 OPA690_F2 
G_G1         11 0 POLY(1) 10 0 -2.14751020E-04 1.200080053E-04 0 0
Q_Q2         16 - 15 PNP8 1
I_I20         45 44 DC 10.9uA  
D_D7         44 0 DN1 
D_D8         0 45 DN1
E_U1_E5      2 - POLY(2) 44 0 45 0 1.1M .7 .7 

*
*
.MODEL DX D
+ IS=1.0000E-15  
*
*MODEL DN1 IS FOR MACRO MODELS
*CREATED BY REA SCHMID 9/23/01
.model DN1 D( IS=.1F AF=1.0 KF=19.2E-17)
*
*MODEL DN3 USED FOR MACRO MODELS
*CREATED BY REA SCHMID 9/23/01
.MODEL DN3 D( IS=.1F AF=1.0 KF=11.0E-17) 
*
.MODEL PNP8 PNP
+ IS = 7.999E-18 BF = 1.418E+02 NF = 1.000E+00 VAF= 4.158E+01
+ IKF= 1.085E-01 ISE= 2.233E-15 NE = 1.505E+00 BR = 3.252E+01
+ NR = 1.050E+00 VAR= 1.093E+00 IKR= 5.000E-05 ISC= 6.621E-16
+ NC = 1.150E+00 RB = 6.246E+01 IRB= 0.000E+00 RBM= 2.240E+00
+ RE = 2.537E+00 RC = 1.260E+02 CJE= 9.502E-14 VJE= 7.320E-01
+ MJE= 4.930E-01 TF = 1.303E-11 XTF= 3.500E+01 VTF= 3.259E+00
+ ITF= 2.639E-01 PTF= 0.000E+00 CJC= 1.080E-13 VJC= 7.743E-01
+ MJC= 5.000E-01 XCJC=8.504E-02 TR = 1.500E-10 CJS= 1.290E-13
+ VJS= 9.058E-01 MJS= 4.931E-01 XTB= 1.732E+00 EG = 1.120E+00
+ XTI= 2.000E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.500E-01
*
.MODEL NPN8 NPN
+ IS = 7.604E-18 BF = 1.570E+02 NF = 1.000E+00 VAF= 7.871E+01
+ IKF= 3.975E-02 ISE= 3.219E-14 NE = 2.000E+00 BR = 7.614E-01
+ NR = 1.000E+00 VAR= 1.452E+00 IKR= 8.172E-02 ISC= 7.618E-21
+ NC = 1.847E+00 RB = 1.060E+02 IRB= 0.000E+00 RBM= 2.400E+00
+ RE = 2.520E+00 RC = 1.270E+02 CJE= 1.120E-13 VJE= 7.591E-01
+ MJE= 5.406E-01 TF = 1.213E-11 XTF= 2.049E+00 VTF= 1.813E+00
+ ITF= 4.293E-02 PTF= 0.000E+00 CJC= 8.208E-14 VJC= 6.666E-01
+ MJC= 4.509E-01 XCJC=8.450E-02 TR = 4.000E-11 CJS= 1.160E-13
+ VJS= 5.286E-01 MJS= 4.389E-01 XTB= 1.022E+00 EG = 1.120E+00
+ XTI= 1.780E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.273E-01
*
.ENDS    OPA690

.subckt OPA690_F9 1 2 3 4  
F_F9         3 4 VF_F9 1.00
VF_F9         1 2 0V
.ends OPA690_F9
*
.subckt OPA690_F10 1 2 3 4  
F_F10         3 4 VF_F10 1.005
VF_F10         1 2 0V
.ends OPA690_F10
*
.subckt OPA690_F3 1 2 3 4  
F_F3         3 4 VF_F3 0.95488521596
VF_F3         1 2 0V
.ends OPA690_F3
*
.subckt OPA690_F4 1 2 3 4  
F_F4         3 4 VF_F4 0.98695305877
VF_F4         1 2 0V
.ends OPA690_F4
*
.subckt OPA690_F6 1 2 3 4  
F_F6         3 4 VF_F6 2.6438181
VF_F6         1 2 0V
.ends OPA690_F6
*
.subckt OPA690_F5 1 2 3 4  
F_F5         3 4 VF_F5 2.574605
VF_F5         1 2 0V
.ends OPA690_F5
*
.subckt OPA690_F1 1 2 3 4  
F_F1         3 4 VF_F1 2.574605
VF_F1         1 2 0V
.ends OPA690_F1
*
.subckt OPA690_F2 1 2 3 4  
F_F2         3 4 VF_F2 2.528519
VF_F2         1 2 0V
.ends OPA690_F2
*